US05962438
Under a nitrogen atmosphere, a suspension of diethylstilbestrol (1.0 g) in acetic acid (160 ml)-water (16 ml) was cooled to 5° C., and 70% nitric acid (0.34 g) was added dropwise thereto. Then, the resulting mixture was heated to 20° C. and stirred for 5 hours. The solvent was distilled off under reduced pressure and an aqueous sodium hydrogencarbonate solution was added to the residue, followed by two runs of extraction with ethyl acetate (150 ml). The combined organic layer was washed with water (200 ml), dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by a silica gel column chromatography (n-hexane:ethyl acetate=9:1) to obtain 3-(4-hydroxy-3-nitrophenyl)-4-(4-hydroxyphenyl)-3-hexene (0.22 g, yield 19%).

reactant | diethylstilbestrol | 1.0 g | CC\C(\C1=CC=C(O)C=C1)=C(/C1=CC=C(O)C=C1)\CC | C18H20O2
reactant | water | 16 ml | O | H2O
reactant | nitric acid | 0.34 g | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 160 ml | C(C)(=O)O | C2H4O2
product | 3-(4-hydroxy-3-nitrophenyl)-4-(4-hydroxyphenyl)-3-hexene | 0.22 g, yield 19% | OC1=C(C=C(C=C1)C(CC)=C(CC)C1=CC=C(C=C1)O)[N+](=O)[O-] | C18H19NO4
